US08431525B2
2-Amino-3-benzyl-5-(4-methoxyphenyl)pyrazine (c-11) (prepared by the method described in Adamczyk M. et al., Org. Prep. Proced. Int., 33, 477-485 (2001)) (200 mg, 687 μmol) was dissolved in anhydrous dichloromethane (2 mL) and to this was added triethylamine (145 μL, 1.04 mmol), and cooled to 0° C. To this was added benzylsulfonyl chloride (196 mg, 1.03 mmol) and stirred for an hour after warming to room temperature. To this were sequentially added triethylamine (145 μL, 1.04 mmol), anhydrous dichloromethane (1.0 mL) and benzylsulfonyl chloride (131 mg, 687 μmol) and stirred for an hour. Furthermore, to this were sequentially added triethylamine (145 μL, 1.04 mmol), anhydrous dichloromethane (1.0 mL) and benzylsulfonyl chloride (131 mg, 687 μmol) and stirred for 2 h. To this was added 2 M hydrochloric acid to stop the reaction and, after separating the aqueous layer and organic layer, the organic layer was washed once with saturated brine and once with saturated aqueous solution of sodium sulfate, and then dried over anhydrous sodium sulfate. After removing anhydrous sodium sulfate by filtration, the filtrate was concentrated under reduced pressure with a rotary evaporater. The residue was purified by silica gel column chromatography (23 g, n-hexane/ethyl acetate=4/1) to give 3-benzyl-2-bis(benzylsulfonyl)amino-5-(4-methoxyphenyl)pyrazine (c-21) as a yellow amorphous (320 mg, 77.6%). Rf=0.63 (n-hexane/ethyl acetate=3/2). Mp. 78-80° C. UV (MeOH) λmax (log ε) 332.5 (4.31), 299.5 (4.20), 277.5 (4.06). UV (pH 7.4 PB) λmax (log ε) 342.5 (4.29), 303 (4.18), 280.5 (4.15). 1H NMR (400 MHz, DMSO-d6) δ 3.87 (s, 3H), 3.97 (s, 2H), 4.78 (s, 1H), 4.82 (s, 1H), 4.94 (s, 1H), 4.97 (s, 1H), 6.96-7.02 (AA′BB′, 2H), 7.17 (d, J=7.2 Hz, 2H), 7.19-7.33 (m, 3H), 7.34-7.44 (m, 10H), 7.92-7.98 (AA′BB′, 2H), 8.80 (s, 1H). 13C NMR (75.5 MHz, DMSO-d6) δ 37.4, 55.4, 61.0 (1C×2), 114.7 (2C), 126.4, 126.8 (1C×2), 128.1 (2C), 128.78 (2C), 128.84 (2C×2), 129.0, 129.3, 129.6 (2C), 131.6 (2C×2), 137.6, 138.5, 140.1, 151.9, 155.4, 161.5. IR (KBr, cm−1) 501, 611, 696, 773, 876, 922, 1028, 1144, 1163, 1250, 1354, 1373, 1422, 1431, 1454, 1495, 1514, 1607. HRMS (FAB+) m/z 600.1639 (M+H, C32H30N3O5S2 requires 600.1627).

reactant | 2-Amino-3-benzyl-5-(4-methoxyphenyl)pyrazine | NC1=NC=C(N=C1CC1=CC=CC=C1)C1=CC=C(C=C1)OC | C18H17N3O
reactant | triethylamine | 1.04 mmol, 145 μL | C(C)N(CC)CC | C6H15N
reactant | benzylsulfonyl chloride | 1.03 mmol, 196 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 1.04 mmol, 145 μL | C(C)N(CC)CC | C6H15N
reactant | benzylsulfonyl chloride | 687 μmol, 131 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | triethylamine | 1.04 mmol, 145 μL | C(C)N(CC)CC | C6H15N
reactant | benzylsulfonyl chloride | 687 μmol, 131 mg | C(C1=CC=CC=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | hydrochloric acid | 2 M | Cl | ClH
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
product | 3-benzyl-2-bis(benzylsulfonyl)amino-5-(4-methoxyphenyl)pyrazine | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=C(C=C1)OC)N(S(=O)(=O)CC1=CC=CC=C1)S(=O)(=O)CC1=CC=CC=C1 | C32H29N3O5S2
